US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, (0.262 g, 1.19 mmol) was reacted with 2-azidoethanamine (0.103 g, 1.19 mmol) and triethylamine (0.242 g, 2.39 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)dodecanamide (0.220 g, 69%). 1H NMR (300 MHz, CDCl3) δ 6.11 (s, 1H), δ 3.40 (d, 2H), δ 3.37 (d, 2H), δ 2.17 (t, 2H), δ 1.59 (q, 2H), δ 1.22 (s, 14H), δ 0.84 (t, 3H) ppm; 13C NMR (75 MHz, CDCl3) δ 173.8, 51.1, 39.1, 36.8, 32.1, 29.8, 29.7, 29.6, 29.5, 29.5, 29.2, 25.9, 22.9, 14.3 ppm; HRMS (ESI) calcd for C14H28N4O (M+) 268.2263. found 268.2259.

reactant | N-(2-azidoethyl)tetradecanamide | 1.19 mmol, 0.262 g | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 2-azidoethanamine | 1.19 mmol, 0.103 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.39 mmol, 0.242 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)dodecanamide | 0.220 g, 69% | N(=[N+]=[N-])CCNC(CCCCCCCCCCC)=O | C14H28N4O
